US04829071
5-Methanesulphonamido-2-[N-(4-methanesulphonamidobenzyl)-N-methylamino]indane
Methanesulphonyl chloride (0.53 ml) was added to 5-amino-2-[N-(4-aminobenzyl)-N-methylamino]indane (1.1 g) in pyridine and the reaction mixture was stirred at room temperature for 17 hours. The solvent was then removed by evaporation in vacuo and the residue taken up in methylene chloride, washed with aqueous sodium bicarbonate, dried (MgSO4) and evaporated in vacuo. The resulting gum was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 2%). The product-containing fractions were combined and evaporated to dryness in vacuo to give a colourless foam. This foam was dissolved in chloroform and the solution was evaporated to dryness in vacuo to give the title compound as a colourless foam, yield 0.2 g.

reactant | Methanesulphonyl chloride | 0.53 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-amino-2-[N-(4-aminobenzyl)-N-methylamino]indane | 1.1 g | NC=1C=C2CC(CC2=CC1)N(C)CC1=CC=C(C=C1)N | C17H21N3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-Methanesulphonamido-2-[N-(4-methanesulphonamidobenzyl)-N-methylamino]indane | CS(=O)(=O)NC=1C=C2CC(CC2=CC1)N(C)CC1=CC=C(C=C1)NS(=O)(=O)C | C19H25N3O4S2
